US05688803
7-Chloro-4-hydroxy-2,3-dihydro-1H-pyrrolo[3,4-c]quinoline-1,3-dione
1.0 g (0.0032 mol) of ethyl 4-azidomethyl-7-chloro-2-hydroxy-quinoline-3-carboxylate was dissolved in a mixture of 80 ml of methanol and 20 ml of dimethylformamide and treated with 46 mg of 10% Pd/C. A hydrogen stream was conducted in slowly during 1 hr. The suspension was suction filtered and the filter cake was suspended in dimethylformamide. The suspension was filtered, concentrated, the residue was suspended in methanol and suction filtered. The substance (0.31 g) was suspended in dimethylformamide and an oxygen stream was conducted in slowly during 4 hrs. The mixture was concentrated and the product was recrystallized from dimethylformamide/methanol. Yield: 0.13 g (18%) of 7-chloro-4-hydroxy-2,3-dihydro-1H-pyrrolo[3,4-c]quinoline-1,3-dione as yellow crystals; m.p. >350° C.

reactant | ethyl 4-azidomethyl-7-chloro-2-hydroxy-quinoline-3-carboxylate | 0.0032 mol, 1.0 g | N(=[N+]=[N-])CC1=C(C(=NC2=CC(=CC=C12)Cl)O)C(=O)OCC | C13H11ClN4O3
reactant | hydrogen | [H][H] | H2
reactant | methanol | 80 ml | CO | CH4O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | 46 mg | [Pd] | Pd
product | 7-Chloro-4-hydroxy-2,3-dihydro-1H-pyrrolo[3,4-c]quinoline-1,3-dione | ClC=1C=CC=2C3=C(C(=NC2C1)O)C(NC3=O)=O | C11H5ClN2O3
